US06630577B2
Added conc. H2SO4 (0.2 mL) to a solution of N-(3,4-dibromobenzoyl)-6-aminohexanoic acid (1.73 g, 4.4 mmol) in methanol (50 mL). Heated under reflux for 2 hours until reaction complete (as determined by TLC). Allowed solution to cool to room temperature and neutralized by adding NaHCO3 solution. Removed solvent in vacuo and extracted residue with ether (2×50 mL). Washed extract with brine (2×30 mL) and dried over anhydrous MgSO4. Filtered extract and dried filtrate under high vacuum to afford a white solid. Obtained 1.72 g (96% yield) of methyl N-(3,4-dibromobenzoyl)-6-aminohexanoate. 1H NMR (300 MHz, DMSO-d6): δ8.59 (triplet, J=5.7 Hz, 1H), 8.16 (doublet, J=1.8 Hz, 1H), 7.84 (doublet, J=8.1 Hz, 1H), 7.73 (doublet of doublets, J=8.1, 1.8 Hz, 1H), 3.55 (singlet, 3H), 3.21 (doublet of triplets, J=6.0, 6.6 Hz, 2H), 2.28 (triplet J=7.3 Hz, 2H), 1.51 (multiplet, 4H), 1.28 (multiplet, 2H). 13C NMR (300 MHz, DMSO-d6): δ173.55, 164.05, 135.67, 133.96, 132.31, 128.20, 127.09, 124.13, 51.19, 39.20, 33.21, 28.56, 25.89, 24.15.

reactant | H2SO4 | 0.2 mL | OS(=O)(=O)O | H2O4S
reactant | N-(3,4-dibromobenzoyl)-6-aminohexanoic acid | 4.4 mmol, 1.73 g | BrC=1C=C(C(=O)NCCCCCC(=O)O)C=CC1Br | C13H15Br2NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | methyl N-(3,4-dibromobenzoyl)-6-aminohexanoate | 1.72 g, 96% yield | BrC=1C=C(C(=O)NCCCCCC(=O)OC)C=CC1Br | C14H17Br2NO3
